US06326372B1
Step 1: 2-Cyclopropyl-3-(3,4-difluorophenyl)-3-hydroxypropionic Acid
To a stirred solution of lithium diisopropylamide (2.0M in hexanes, 46.4 mL, 92.8 mmol) in 20 mL of THF at −40° C. under a nitrogen atmosphere was added cyclopropylacetic acid (4.65g in 20 mL of THF, 46.4 mmol), dropwise. The mixture was stirred in the cold for 15 minutes and warmed to ambient temperature. After 1 hour, the reaction slurry was cooled in an ice bath and 3,4-difluorobenzaldehyde (5.2 mL, 47.1 mmol) in 10 mL of THF was added dropwise. The mixture was warmed to ambient temperature and allowed to stir for 2 hours. The mixture was poured into 200 mL of cold water and the layers separated. The organic layer was washed with water (3X), and the combined aqueous layers were washed with ethyl ether (2X), and then acidified with 3N hydrochloric acid. The water layer was extracted with ethyl ether (3X) and the combined ether layers were dried over sodium sulfate, filtered, and evaporated to dryness to yield the title compound as an oil.

reactant | lithium diisopropylamide | 92.8 mmol, 2.0M, 46.4 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclopropylacetic acid | 46.4 mmol, 20 mL, 4.65g | C1(CC1)CC(=O)O | C5H8O2
reactant | 3,4-difluorobenzaldehyde | 47.1 mmol, 5.2 mL | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | water | 200 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Cyclopropyl-3-(3,4-difluorophenyl)-3-hydroxypropionic Acid | C1(CC1)C(C(=O)O)C(O)C1=CC(=C(C=C1)F)F | C12H12F2O3
